US07582633B2
Step 3: Ethyl {5-[2-(4-hydroxypiperidin-1-yl)pyrimidin-5-yl]-2H-tetrazol-2-yl}acetate
A mixture of 1-[5-(1H-tetrazol-5-yl)pyrimidin-2-yl]piperidin-4-ol (550 mg, 2.224 mmol), triethylamine (0.62 mL, 4.45 mmol), ethyl bromoacetate (371 μL, 3.34 mmol) in THF (77.4 mL) was heated at 80° C. for 1 h. The solvent was evaporated, diluted with water (5 mL) and slurried with Et2O (5 mL). The mixture was filtered and washed with water followed by Et2O. The solid was dried under high vacuum to afford the title compound.

reactant | 1-[5-(1H-tetrazol-5-yl)pyrimidin-2-yl]piperidin-4-ol | 2.224 mmol, 550 mg | N1N=NN=C1C=1C=NC(=NC1)N1CCC(CC1)O | C10H13N7O
reactant | triethylamine | 4.45 mmol, 0.62 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 3.34 mmol, 371 μL | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 77.4 mL | C1CCOC1 | C4H8O
product | Ethyl {5-[2-(4-hydroxypiperidin-1-yl)pyrimidin-5-yl]-2H-tetrazol-2-yl}acetate | OC1CCN(CC1)C1=NC=C(C=N1)C=1N=NN(N1)CC(=O)OCC | C14H19N7O3
